US08431575B2
A stirred solution of trans-(4-hydroxy-cyclohexyl)-carbamic acid tert-butyl ester (1.0 mmol) in anhydrous THF at 0° C. may be treated with sodium hydride (60% dispersion in mineral oil) (1.3 mmol). After stirring for 15 min the reaction mixture is allowed to come to room temperature. To the alkoxide solution is added 3-butyl-6-chloro-4-(4-cyclohexyloxy-phenyl)-pyridazine (0.74 mmol). After completion of the addition, the reaction mixture is warmed to 50° C. and is stirred 3 hours. The reaction is concentrated onto SiO2, purification via flash chromatography may be used (20-50% ethyl acetate in hexanes) to provide trans-{-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-cyclohexyl}-carbamic acid tert-butyl ester.

reactant | trans-(4-hydroxy-cyclohexyl)-carbamic acid tert-butyl ester | 1.0 mmol | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)O)=O | C11H21NO3
reactant | sodium hydride | 1.3 mmol | [H-].[Na+]
reactant | 3-butyl-6-chloro-4-(4-cyclohexyloxy-phenyl)-pyridazine | 0.74 mmol | C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)Cl | C20H25ClN2O
solvent | THF | C1CCOC1 | C4H8O
product | trans-{-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-cyclohexyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)OC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC)=O | C31H45N3O4
